US07652143B2
t-Butyl 2-(4-(4-methoxybenzyl)-2-oxo-(1,2,3) oxathiazolidin-3-yl)-3-methylbutyrate (2.2 g; 5.7 mmol) was dissolved in acetonitrile (15 ml) and the reaction solution was cooled to 0° C. Then NaIO4 (1.47 g; 6.8 mmol), RuCl3.H2O (128.5 mg; 0.57 mmol) and water (15 ml) were added. The reaction solution was stirred at 0° C. for 5 minutes and then at RT for 30 minutes. This was followed by addition of NaHCO3 solution, extraction with CH2Cl2 (3×) and drying of the organic phase over NaSO4 and concentration in a rotary evaporator. The crude product was filtered through an SiO2 cartridge (10 g). t-Butyl 2-(4-(4-methoxybenzyl)-2,2-dioxo-(1,2,3)oxathiazolidin-3-yl)-3-methylbutyrate (2.02 g; 5.0 mmol) was obtained as a yellow oil. MS: 417.45 (M+NH4+); Rt: 1.86 min (method: gradient 0 min 96% H2O (0.05% TFA) 2.0 min 95% acetonitrile, 95% acetonitrile to 2.4 min, 4% acetonitrile 2.45 min; flow rate 1 ml/min; column 0.4 μL (YMC J'sphere ODS H80 20X2 1.4μ); 30° C.)

reactant | t-Butyl 2-(4-(4-methoxybenzyl)-2-oxo-(1,2,3) oxathiazolidin-3-yl)-3-methylbutyrate | 5.7 mmol, 2.2 g | COC1=CC=C(CC2N(S(OC2)=O)C(C(=O)OC(C)(C)C)C(C)C)C=C1 | C19H29NO5S
reactant | water | 15 ml | O | H2O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | t-Butyl 2-(4-(4-methoxybenzyl)-2,2-dioxo-(1,2,3)oxathiazolidin-3-yl)-3-methylbutyrate | 5.0 mmol, 2.02 g | COC1=CC=C(CC2N(S(OC2)(=O)=O)C(C(=O)OC(C)(C)C)C(C)C)C=C1 | C19H29NO6S
